US04411900
A mixture of 4-chloromethyl-2-methylthiazole hydrochloride (1.84 g), 1-benzhydrylpiperazine (2.52 g) and potassium carbonate (2.7 g) in N,N-dimethylformamide (15 ml) was stirred at 70° C. for an hour. After the reaction mixture was poured into ice-water, it was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and then evaporated to give a residue, which was transformed into its hydrochloride in a conventional manner, followed by recrystallization from a mixture of methanol and diethyl ether to obtain white crystals (2.0 g) of 4-(4-benzhydrylpiperazin-1-ylmethyl)-2-methylthiazole trihydrochloride, mp 166°-170° C. (dec.).

reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 1.84 g | Cl.ClCC=1N=C(SC1)C
reactant | 1-benzhydrylpiperazine | 2.52 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4-benzhydrylpiperazin-1-ylmethyl)-2-methylthiazole trihydrochloride | 2.0 g | Cl.Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC=1N=C(SC1)C | InChI=1S/C22H25N3S.3ClH/c1-18-23-21(17-26-18)16-24-12-14-25(15-13-24)22(19-8-4-2-5-9-19)20-10-6-3-7-11-20;;;/h2-11,17,22H,12-16H2,1H3;3*1H
